### PR TITLE
Add specification for AES-GCM

### PR DESCRIPTION
**Pull request by pennyannn**
### Description:

This PR adds specification for AES-GCM, including specification for AES-encrypt, GCTR, GHASH, GCM-AE and GCM-AD. The specification is written based on NIST standard for [AES](https://nvlpubs.nist.gov/nistpubs/FIPS/NIST.FIPS.197-upd1.pdf) and [GCM](https://nvlpubs.nist.gov/nistpubs/legacy/sp/nistspecialpublication800-38d.pdf).

This PR also adds tests for AES and AES-GCM specifications.

### Testing:

`make all` succeeds and cosim tests pass on Graviton2 and Graviton3.

### License:

By submitting this pull request, I confirm that my contribution is
made under the terms of the Apache 2.0 license.

### CODE REVIEW

File: Tests/AESSpecTest.lean [hunk 1]
```diff
@@ -0,0 +1,42 @@
+/-
+Copyright (c) 2024 Amazon.com, Inc. or its affiliates. All Rights Reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Author(s): Yan Peng
+-/
```
Comment (aqjune-aws) [inline Tests/AESSpecTest.lean:5]: Is this test added because AES was missing tests, or is there an update in the AES function of LNSym that needs these tests?

File: Tests/AESGCMSpecTest.lean [hunk 2]
```diff
@@ -0,0 +1,166 @@
+/-
+Copyright (c) 2024 Amazon.com, Inc. or its affiliates. All Rights Reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Author(s): Yan Peng
+-/
+import Arm.BitVec
+import Specs.AES
+import Specs.GCM
+
+-- Reference: https://csrc.nist.rip/groups/ST/toolkit/BCM/documents/proposedmodes/gcm/gcm-spec.pdf
```
Comment (aqjune-aws) [inline Tests/AESGCMSpecTest.lean:10]: It seems that this spec contains 18 test cases. Is there a rationale how 11 cases are chosen?

File: Tests/AESGCMSpecTest.lean [hunk 3]
```diff
@@ -0,0 +1,166 @@
...
+  → Option (BitVec c) := GCM.GCM_AD (m := 256) CIPH_256
+
+-- Test Vector 0
+
+def K0 : BitVec 128 := 0
+def IV0 : BitVec 96 := 0
+def P0 : BitVec 0 := BitVec.nil
+def A0 : BitVec 0 := BitVec.nil
+def C0 : BitVec 0 := BitVec.nil
+def T0 : BitVec 128 := rev_elems 128 8 0x58e2fccefa7e3061367f1d57a4e7455a#128 (by decide) (by decide)
```
Comment (aqjune-aws) [inline Tests/AESGCMSpecTest.lean:41]: A naive question: what is rev_elems?

**Review by aqjune-aws — COMMENTED** [review]
Hi Yann, I want to review this pull request by doing these two checks:
1. Checking the consistency between signatures of the Lean functions and the human-written specifications in https://nvlpubs.nist.gov/nistpubs/legacy/sp/nistspecialpublication800-38d.pdf . I left a few comments regarding this. I did not dive into the every detail since the functions are large & there are test vectors.
2. Checking the validity of test vectors, esp. with respect to the test vectors in https://csrc.nist.rip/groups/ST/toolkit/BCM/documents/proposedmodes/gcm/gcm-spec.pdf .

I have a question about AES-GCM test vectors - does AWS-LC have its own test-vectors for AES-GCM? Or are the test sets equivalent to the test vectors in the pdf document?

**Comment by aqjune-aws** [comment]
One minor comment in PR description:
> ... GCM-AE and GCM-DE
GCM-AE and GCM-AD, maybe? :)

**Comment by pennyannn** [comment]
> I have a question about AES-GCM test vectors - does AWS-LC have its own test-vectors for AES-GCM? Or are the test sets equivalent to the test vectors in the pdf document?

Yes, AWS-LC has its own test vectors, see https://github.com/aws/aws-lc/tree/main/crypto/cipher_extra/test
The AWS-LC tests are more comprehensive. It includes the tests from the document https://csrc.nist.rip/groups/ST/toolkit/BCM/documents/proposedmodes/gcm/gcm-spec.pdf

File: Specs/GCM.lean [hunk 4]
```diff
@@ -0,0 +1,198 @@
...
+    let Xi := getMsb X i
+    let Z := if not Xi then Z else Z ^^^ V
+    let lsb_v := getLsb V 0
+    let V := if not lsb_v then V >>> 1 else (V >>> 1) ^^^ R
+    mul_aux (i + 1) X Z V
+  termination_by (128 - i)
+
+/-- The GF(2^128) multiplication -/
+def mul (X : BitVec 128) (Y : BitVec 128) : BitVec 128 :=
+  mul_aux 0 X 0b0#128 Y
```
[the remark this answers is not in the document]
Comment (pennyannn) [reply Specs/GCM.lean:47]: Yes. That would be cool!

File: Tests/AESGCMSpecTest.lean (hunk 2 above)
Comment (pennyannn) [reply Tests/AESGCMSpecTest.lean:10]: Great observation. There are 12 test vectors (for AES-128-GCM and AES-256-GCM). The 6 left are for AES-192-GCM. I didn't add it because we are not interested in AES-192-GCM, but there is no harm.

File: Tests/AESGCMSpecTest.lean (hunk 3 above)
Comment (pennyannn) [reply Tests/AESGCMSpecTest.lean:41]: `rev_elems` is a function defined in Arm/Insts/Common.lean. See the following:
```
/-- Reverse the order of `esize`-bit elements in `x`.-/
def rev_elems (n esize : Nat) (x : BitVec n) (h₀ : esize ∣ n) (h₁ : 0 < esize) : BitVec n

example : rev_elems 4 4 0xA#4 (by decide) (by decide) = 0xA#4 := rfl
example : rev_elems 8 4 0xAB#8 (by decide) (by decide) = 0xBA#8 := rfl
example : rev_elems 8 4 (rev_elems 8 4 0xAB#8 (by decide) (by decide))
          (by decide) (by decide) = 0xAB#8 := by native_decide
```

File: Specs/GCM.lean [hunk 5]
```diff
@@ -0,0 +1,198 @@
...
+
+def length_constraints (_IV : BitVec v) (_A : BitVec a) (_C : BitVec c)
+  : Bool :=
+     1 ≤ v && v ≤ 2^64 - 1
+  && c ≤ 2^39 - 256
+  && a ≤ 2^64 - 1
+
+/-- GCM_AD : Galois Counter Mode Authenticated Decryption
+    GCM_AD returns none when decryption fails. -/
+def GCM_AD {m : Nat} (CIPH : Cipher (n := 128) (m := m))
```
[the remark this answers is not in the document]
Comment (pennyannn) [reply Specs/GCM.lean]: I removed parameter `m` instead of adding `t`. The function signature also contains other parameters like `lv`, `a` and etc. It would be tedious to add all.

File: Specs/GCM.lean [hunk 6]
```diff
@@ -0,0 +1,198 @@
...
+protected theorem GCM_AE_DE_simplification1 (a : Nat) (v : Nat) (p : Nat) (u : Nat) :
+  64 + 64 + u + p + v + a = 128 + (u + p) + (v + a) := by omega
+
+protected theorem GCM_AE_DE_simplification2
+  (y : Nat) (x : Nat) (h : y ≤ x * 128):
+  (x * 128 - y) + y = x * 128 := by omega
+
+/-- GCM_AE : Galois Counter Mode Authenticated Encryption -/
+def GCM_AE {m : Nat} (CIPH : Cipher (n := 128) (m := m))
+  (K : BitVec m) (IV : BitVec lv) (P : BitVec p) (A : BitVec a) (t : Nat)
```
[the remark this answers is not in the document]
Comment (pennyannn) [reply Specs/GCM.lean]: Done.

File: Tests/AESGCMSpecTest.lean (hunk 2 above)
Comment (pennyannn) [reply Tests/AESGCMSpecTest.lean:10]: Done adding all tests for AES-192-GCM

File: Specs/AES.lean [hunk 7]
```diff
@@ -0,0 +1,227 @@
...
+protected theorem FFmul02_equiv : (fun x => XTimes x) = DPSFP.FFmul02 := by
+  funext x
+  simp only [XTimes, DPSFP.FFmul02]
+  sorry
+
+-- TODO: looks like a SAT/SMT problem
+protected theorem FFmul03_equiv : (fun x => x ^^^ XTimes x) = DPSFP.FFmul03 := by
+  funext x
+  simp only [XTimes, DPSFP.FFmul03]
+  sorry
```
Comment (aqjune-aws) [inline Specs/AES.lean:178]: I remember that having `sorry` on small lemmas was fine, but to double check: @shigoel  :)

**Review by aqjune-aws — APPROVED** [review]
I compared the test vectors in `Tests/*Test.lean` with the vectors written in the pdf files and they matched.
I will recommend waiting for comments from one more reviewers.

**Comment by hanno-becker** [comment]
I am happy to have a look as well, assuming it is OK if the review takes a few days (I am not well-versed with Lean, plus other commitments).

File: Specs/AES.lean (hunk 7 above)
Comment (shigoel) [reply Specs/AES.lean:178]: Thanks, @aqjune-aws!

Yes indeed --- `sorry` for this particular type of lemma is acceptable for now. This lemma is a great candidate for proof by SAT/SMT solvers, and we can tackle them using those automated decision procedures once those tactics are available.

BTW, LNSym has many such `sorry`s already (e.g., in this [file](https://github.com/leanprover/LNSym/blob/main/Arm/SeparateProofs.lean.)).

File: Specs/AESCommon.lean [hunk 8]
```diff
@@ -1,64 +1,116 @@
...
-        0xcf584c4a39becb6a5bb1fc20ed00d153#128, -- <127:0>
-        0x842fe329b3d63b52a05a6e1b1a2c8309#128, -- <127:0>
-        0x75b227ebe28012079a059618c323c704#128, -- <127:0>
-        0x1531d871f1e5a534ccf73f362693fdb7#128, -- <127:0>
-        0xc072a49cafa2d4adf04759fa7dc982ca#128, -- <127:0>
-        0x76abd7fe2b670130c56f6bf27b777c63#128  -- <127:0>
-        ]
+def SBOX :=
+  --   F E D C B A 9 8 7 6 5 4 3 2 1 0
+  [ 0x16bb54b00f2d99416842e6bf0d89a18c#128, -- F
```
[the remark this answers is not in the document]
Comment (pennyannn) [reply Specs/AESCommon.lean:17]: That's a great observation. One reason that I chose to write the specification this way, is to make the proof easier. The specification uses common Arm functions like `SubBytes` and `ShiftRows`. For `MixColumns`, there is a lemma that establishes the equivalence between the table lookup version in Arm and the XTimes version in the specification. When we conduct proofs on higher-level like for AES-encrypt, or even AES-GCM, we don't have to go all the way to the bottom but can treat these common function as uninterpreted.

Now, that being said, I agree that it will be better if there is a version of the specification that looks more closely to the specification, then we establish the equivalence between the two specifications. I could rename the current `AES.lean` file to `AES_Arm.lean` for the sake of this PR. We can consider adding `AES_Spec.lean` and establish its equivalence to `AES_Arm.lean` in future work.

[the remark this answers is not in the document]
Comment (hanno-becker) [reply Specs/AESCommon.lean:17]: @pennyannn I think that's a good idea. Do we still need the splitting of `AES.lean` and `AES_Common.lean` for the time being, or can we just have some Arm-ASL-aligned `AES_Arm.lean` for now?

File: Specs/AES.lean [hunk 9]
```diff
@@ -0,0 +1,231 @@
...
+-- for k in key1 to key9
+--   SubBytes
+--   ShiftRows
+--   MixColumns
+--   AddRoundKey
+-- SubBytes
+-- ShiftRows
+-- AddRoundKey key10
+--
+-- The Arm implementation has an optimization that commute intermediate steps:
```
Comment (hanno-becker) [inline Specs/AES.lean:27]: Trivial nit: Nothing's being commuted, but rather grouped differently?

File: Specs/GCM.lean [hunk 10]
```diff
@@ -0,0 +1,198 @@
...
+import Arm.BitVec
+import Arm.Insts.Common
+
+-- References: https://nvlpubs.nist.gov/nistpubs/legacy/sp/nistspecialpublication800-38d.pdf
+
+namespace GCM
+
+open BitVec
+
+def R : (BitVec 128) := 0b11100001#8 ++ 0b0#120
```
Comment (hanno-becker) [inline Specs/GCM.lean:15]: Suggestion: Refer to "6.3 Multiplication Operation on Blocks" and comment that this is, up to `x^127`, a representation of the polynomial that the spec uses to define `GF(2^128)`?

File: Specs/GCM.lean [hunk 11]
```diff
@@ -0,0 +1,198 @@
...
+  let lower := h₁ ▸ (extractLsb lsb_hi lsb_lo X) + 0b1#s
+  have h₂ : msb_hi - msb_lo + 1 + s = l := by omega
+  h₂ ▸ (upper ++ lower)
+
+def mul_aux (i : Nat) (X : BitVec 128) (Z : BitVec 128) (V : BitVec 128)
+  : BitVec 128 :=
+  if h : 128 ≤ i then
+    Z
+  else
+    let Xi := getMsb X i
```
Comment (hanno-becker) [inline Specs/GCM.lean:38]: Please correct me if I'm wrong, but are we using a different endianness than in the spec here? The spec uses `Xi = getLsb X i`, or not?

File: Specs/GCM.lean [hunk 12]
```diff
@@ -0,0 +1,198 @@
...
+def GHASH_aux (i : Nat) (H : BitVec 128) (X : BitVec n) (Y : BitVec 128)
+  (h : 128 ∣ n) : BitVec 128 :=
+  if n / 128 ≤ i then
+    Y
+  else
+    let lo := i * 128
+    let hi := lo + 127
+    have h₀ : hi - lo + 1 = 128 := by omega
+    let Xi := extractLsb hi lo X
+    let res := rev_elems 128 8 (Y ^^^ (h₀ ▸ Xi)) (by decide) (by decide)
```
Comment (hanno-becker) [inline Specs/GCM.lean:58]: Similar to the point above, we seem to be deviating from the spec here by bit-reversing 128-bit blocks before multiplication?

File: Specs/GCM.lean (hunk 11 above)
Comment (hanno-becker) [reply Specs/GCM.lean:38]: No, I got this wrong, sorry. The indexing is a bit confusing in the spec since bitstrings are interpreted as little-endian polynomials, which makes the LSB of a bitstring the highest monomial in the represented polynomial.

**Comment by hanno-becker** [comment]
@pennyannn Thank you for this work, and for giving me time to review, which was a very interesting way to get a glimpse of LNSym and Lean. I hope subsequent reviews will be quicker.

I don't have any blocking comments, only this suggestion: The deviation(s) from the spec in terms of byte ordering is quite confusing. Could one not map the spec to Lean 1-1, and introduce a byte-reversing wrapper at the very end?

**Comment by hanno-becker** [comment]
This is what I had in mind, in the example of GCM encrypt, and only checked insofar as a single test vector goes.
```Lean

def GHASH_aux (i : Nat) (H : BitVec 128) (X : BitVec n) (Y : BitVec 128)
  (h : 128 ∣ n) : BitVec 128 :=
  if n / 128 ≤ i then
    Y
  else
    let lo := (n/128 - 1 - i) * 128
    let hi := lo + 127
    have h₀ : hi - lo + 1 = 128 := by omega
    let Xi := extractLsb hi lo X
    let res := (Y ^^^ (h₀ ▸ Xi))
    let Y := mul res H
    GHASH_aux (i + 1) H X Y h
  termination_by (n / 128 - i)

/-- GHASH: hashing message X using Galois field multiplication -/
def GHASH (H : BitVec 128) (X : BitVec n) (h : 128 ∣ n) : BitVec 128 :=
  GHASH_aux 0 H X (BitVec.zero 128) h

def GCTR_aux (CIPH : Cipher (n := 128) (m := m))
  (i : Nat) (n : Nat) (K : BitVec m) (ICB : BitVec 128)
  (X : BitVec v) (Y : BitVec v) : BitVec v :=
  if n ≤ i then
    Y
  else
    let lo := (n - i - 1) * 128
    let hi := lo + 127
    have h : hi - lo + 1 = 128 := by omega
    -- extractLsb will fill upper bits with zeros if hi >= len X
    let Xi := extractLsb hi lo X
    -- reversing counter because AES expects little-endian
    let Yi := h ▸ Xi ^^^ (CIPH ICB K)
    -- partInstall ignores val indexes that exceeds length of Y
    let Y := BitVec.partInstall hi lo (h.symm ▸ Yi) Y
    let ICB := inc_s 32 ICB (by omega) (by omega)
    GCTR_aux CIPH (i + 1) n K ICB X Y
  termination_by (n - i)

--protected def ceiling_in_blocks (w : Nat) := (w - 1) / 128 + 1
protected def ceiling_in_blocks (w : Nat) := (w + 127) / 128
protected def ceiling_in_bits (w : Nat) := (GCM.ceiling_in_blocks w) * 128

protected theorem bits_le_ceiling_in_bits (w : Nat) :
  w ≤ (GCM.ceiling_in_blocks w) * 128 := by
  simp only [GCM.ceiling_in_blocks]
  omega

/-- GCTR: encrypting/decrypting message x using Galois counter mode -/
def GCTR (CIPH : Cipher (n := 128) (m := m))
  (K : BitVec m) (ICB : BitVec 128) (X : BitVec v) : (BitVec v) :=
  let n := GCM.ceiling_in_blocks v
  let b := GCM.ceiling_in_bits v
  let s := b - v
  let h : v + s = b := by sorry
  let X' : BitVec b := h ▸ (shiftLeftZeroExtend X s)
  let R := GCTR_aux CIPH 0 n K ICB X' $ BitVec.zero b
  truncate v $ R >>> s

protected theorem initialize_J0_simplification
  (lv : Nat) (x : Nat) (h : lv ≤ x * 128):
  lv + (x * 128 - lv + 64) + 64  = x * 128 + 128 := by omega

protected def initialize_J0 (H : BitVec 128) (IV : BitVec lv) :=
  if h₀ : lv == 96
  then have h₁ : lv + 31 + 1 = 128 := by
         simp only [Nat.succ.injEq]
         exact Nat.eq_of_beq_eq_true h₀
       h₁ ▸ (IV ++ BitVec.zero 31 ++ 0b1#1)
  else let s := GCM.ceiling_in_bits lv - lv
       have h₂ : 128 ∣ (lv + (s + 64) + 64) := by
         simp only [s, GCM.ceiling_in_bits]
         rw [GCM.initialize_J0_simplification lv (GCM.ceiling_in_blocks lv)
             (by apply GCM.bits_le_ceiling_in_bits)]
         omega
       have h₃ : 8 ∣ (lv + (s + 64) + 64) := by
         simp only [s, GCM.ceiling_in_bits]
         rw [GCM.initialize_J0_simplification lv (GCM.ceiling_in_blocks lv)
             (by apply GCM.bits_le_ceiling_in_bits)]
         omega
       let block := rev_elems (lv + (s + 64 ) + 64) 8
                      (IV ++ (BitVec.zero (s + 64)) ++ (BitVec.ofNat 64 lv))
                      h₃ (by decide)
       rev_elems 128 8 (GHASH H block h₂) (by decide) (by decide)

protected theorem GCM_AE_DE_simplification1 (a : Nat) (v : Nat) (p : Nat) (u : Nat) :
  64 + 64 + u + p + v + a = 128 + (u + p) + (v + a) := by omega

protected theorem GCM_AE_DE_simplification1' (a : Nat) (v : Nat) (p : Nat) (u : Nat) :
  a + v + p + u + 64 + 64 = 128 + (u + p) + (v + a) := by omega

protected theorem GCM_AE_DE_simplification2
  (y : Nat) (x : Nat) (h : y ≤ x * 128):
  (x * 128 - y) + y = x * 128 := by omega

/-- GCM_AE : Galois Counter Mode Authenticated Encryption -/
def GCM_AE (CIPH : Cipher (n := 128) (m := 128))
  (K : BitVec 128) (t : Nat) (IV : BitVec lv) (P : BitVec p) (A : BitVec a)
  : (BitVec p) × (BitVec t) :=
  let H := CIPH (BitVec.zero 128) K
  let J0 : BitVec 128 := GCM.initialize_J0 H IV
  let ICB := inc_s 32 J0 (by decide) (by decide)
  let C := GCTR (m := 128) CIPH K ICB P
  let u := GCM.ceiling_in_bits p - p
  let v := GCM.ceiling_in_bits a - a
  let block :=     A
                ++ BitVec.zero v
                ++ C
                ++ BitVec.zero u
                ++ (BitVec.ofNat 64 a) ++ (BitVec.ofNat 64 p)
  have h : 128 ∣ a + v + p + u + 64 + 64 := by
    rw [GCM.GCM_AE_DE_simplification1']
    simp only [u, v]
    simp only [GCM.ceiling_in_bits]
    rw [GCM.GCM_AE_DE_simplification2 p (GCM.ceiling_in_blocks p)
        (by apply GCM.bits_le_ceiling_in_bits)]
    rw [GCM.GCM_AE_DE_simplification2 a (GCM.ceiling_in_blocks a)
        (by apply GCM.bits_le_ceiling_in_bits)]
    omega
  let S := GHASH H block h
  let T := truncate t $ GCTR (m := 128) CIPH K J0 S
  (C, T)

def CIPH_128 : GCM.Cipher (n := 128) (m := 128) :=
  AES.AES_encrypt (Param := AES.AES128KBR)

def revCIPH (CIPH : BitVec n -> BitVec m -> BitVec n) (p : BitVec n) (k : BitVec m) :=
  (rev_elems n 8 (CIPH (rev_elems n 8 p (by sorry) (by sorry))
                         (rev_elems m 8 k (by sorry) (by sorry)))
       (by sorry) (by sorry))

def CIPH_128' : GCM.Cipher (n := 128) (m := 128) :=
  revCIPH CIPH_128

def GCM_AE_128 : BitVec 128 → (t : Nat) → BitVec lv → BitVec p → BitVec a
  → (BitVec p) × (BitVec t) := GCM.GCM_AE CIPH_128'

def K3   : BitVec 128 := 0xfeffe9928665731c6d6a8f9467308308#128
def IV3  : BitVec 96  := 0xcafebabefacedbaddecaf888#96
def P3   : BitVec 480 := 0xd9313225f88406e5a55909c5aff5269a86a7a9531534f7da2e4c303d8a318a721c3c0c95956809532fcf0e2449a6b525b16aedf5aa0de657ba637b39#480
def A3   : BitVec 160 := 0xfeedfacedeadbeeffeedfacedeadbeefabaddad2#160
def C3   : BitVec 480 := 0x42831ec2217774244b7221b784d0d49ce3aa212f2c02a4e035c17e2329aca12e21d514b25466931c7d8f6a5aac84aa051ba30b396a0aac973d58e091#480
def T3   : BitVec 128 := 0x5bc94fbc3221a5db94fae95ae7121a47#128

example : GCM_AE_128 K3 128 IV3 P3 A3 = (C3, T3) := by native_decide

```

File: Specs/GCM.lean (hunk 10 above)
Comment (pennyannn) [reply Specs/GCM.lean:15]: Done

File: Specs/AESCommon.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (pennyannn) [reply Specs/AESCommon.lean:17]: Done.

File: Specs/GCM.lean (hunk 12 above)
Comment (pennyannn) [reply Specs/GCM.lean:58]: You are correct on both understanding.

**Comment by pennyannn** [comment]
Hi @hanno-becker , it's such a genius idea for getting rid of all the byte reversing functions. By treating the blocks from most significant block to least significant block, we essentially get rid of all the byte reversing functions (they sort of cancels out in the original version because of double reversing)! The code now looks just like the NIST specification. This is wonderful!
The only place we need to do byte-reversing is when calling AES and that is extracted into a single function `revCIPH`.
Thank you so much for suggesting this optimization!

I have updated the code to reflect all your comments. Let me know what you think.

**Review by hanno-becker — APPROVED** [review]
Thanks @pennyannn, LGTM!

**Comment by shigoel** [comment]
Thanks, @pennyannn, @hanno-becker, and @aqjune-aws!
